US04670373
Five hundred milliliters of a dimethylformamide solution of 103.2 g (0.6 mole) of 2-hydroxy-1-naphthaldehyde and 107.6 g (0.78 mole) of anhydrous potassium carbonate was stirred at 50° C. To the solution was added dropwise 145 g (0.78 mole) of methyl p-toluenesulfonate. After the addition, the mixture was stirred at 60° C. for 2 hours. The reaction mixture was added to 1.5 liters of water, and the precipitated crystals were collected by filtration. The crude crystals were recrystallized from a mixture of n-hexane and ethyl acetate (5/1) to give 93.8 g (0.504 mole) of 2-methoxy-1-naphthaldehyde.

reactant | dimethylformamide | Five hundred milliliters | CN(C=O)C | C3H7NO
reactant | 2-hydroxy-1-naphthaldehyde | 0.6 mole, 103.2 g | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
reactant | potassium carbonate | 0.78 mole, 107.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl p-toluenesulfonate | 0.78 mole, 145 g | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
solvent | water | 1.5 liters | O | H2O
product | 2-methoxy-1-naphthaldehyde | 0.504 mole, 93.8 g | COC1=C(C2=CC=CC=C2C=C1)C=O | C12H10O2
